US07943654B2
Tert-butyl 4-cyano-5-hydrazinothiophene-2-carboxylate
A mixture of tert-butyl 4-cyano-5-(methylsulfonyl)thiophene-2-carboxylate (2.0 g, 7.0 mmol) and hydrazine hydrate (1.7 mL) in methyl alcohol (30 mL) was stirred at 60° C. for 2 hours. The reaction mixture was diluted with ethyl acetate (100 mL) and washed with water. Organic layer was separated, dried over anhydrous sodium sulfate and evaporated. Through chromatography purification (n-hexane/ethyl acetate 3:2), 1 g of the title compound was thus obtained.

reactant | tert-butyl 4-cyano-5-(methylsulfonyl)thiophene-2-carboxylate | 7.0 mmol, 2.0 g | C(#N)C=1C=C(SC1S(=O)(=O)C)C(=O)OC(C)(C)C | C11H13NO4S2
reactant | hydrazine hydrate | 1.7 mL | O.NN
solvent | methyl alcohol | 30 mL | CO | CH4O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | Tert-butyl 4-cyano-5-hydrazinothiophene-2-carboxylate | C(#N)C=1C=C(SC1NN)C(=O)OC(C)(C)C | C10H13N3O2S
